US08383821B2
4-Bromo-2-(bromomethyl)-1-methoxybenzene.
To a solution of (5-bromo-2-methoxyphenyl)methanol (1.0 g, 4.6 mmol) in dichloromethane (10 mL) at 0° C. was added tribromophosphine (1 M in dichloromethane, 9.2 mL, 9.2 mmol). The ice bath was removed and the reaction stirred for 15 min. The reaction was concentrated, poured onto cold saturated sodium bicarbonate, extracted with pentane, dried over magnesium sulfate, and concentrated to give 1.15 g (89%) as a white crystalline solid. 1H NMR (500 MHz, CDCl3) δ ppm 7.44 (d, J=2.5 Hz, 1H), 7.38 (dd, J=8.9, 6.1 Hz, 1H), 4.47 (s, 2H), 3.87 (s, 3H); 13C NMR (126 MHz, CDCl3) δ ppm 156.7, 133.6, 132.8, 128.4, 112.8, 112.7, 56.0, 27.5.

reactant | (5-bromo-2-methoxyphenyl)methanol | 4.6 mmol, 1.0 g | BrC=1C=CC(=C(C1)CO)OC | C8H9BrO2
reactant | tribromophosphine | 9.2 mmol, 1 M, 9.2 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-Bromo-2-(bromomethyl)-1-methoxybenzene | BrC1=CC(=C(C=C1)OC)CBr | C8H8Br2O
